US05852011
Methyl 4-[N,N-bis(2-hydroxyethyl)amino]phenoxyacetate
Ethylene oxide (10 g; 227 mmol) was added under ice cooling to a solution of 4.0 g (22 mmol) of methyl 4-aminophenoxyacetate in 22 ml of 30% acetic acid. After the resultant mixture was stirred overnight at room temperature, nitrogen gas was bubbled to eliminate excess ethylene oxide. Subsequent to neutralization with sodium hydrogencarbonate, sodium chloride was added, followed by extraction with n-butanol. The extract was dried over magnesium sulfate and the solvent was distilled out. The residue was purified by chromatography on a silica gel column (chloroform/methanol=20/1), whereby 5.29 g of the title compound were obtained as a colorless oil (yield: 89%).

reactant | Ethylene oxide | 227 mmol, 10 g | C1CO1 | C2H4O
reactant | methyl 4-aminophenoxyacetate | 22 mmol, 4.0 g | NC1=CC=C(OCC(=O)OC)C=C1 | C9H11NO3
reactant | acetic acid | 22 ml | C(C)(=O)O | C2H4O2
product | Methyl 4-[N,N-bis(2-hydroxyethyl)amino]phenoxyacetate | 5.29 g | OCCN(CCO)C1=CC=C(OCC(=O)OC)C=C1 | C13H19NO5
